US09034866B2
Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (0.3 g) was reacted with tert-butyl 3-oxoazetidine-1-carboxylate similar to as described in example 8 with non-critical modifications to produce methyl 10-bromo-3-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate. This crude intermediate was reacted via General Procedure L then deprotected with 4N HCl in dioxane (5 eq) at room temperature to provide 10-bromo-9-fluoro-3-(3-hydroxyazetidin-3-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide. 10-bromo-9-fluoro-3-(3-hydroxyazetidin-3-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with cyclopropane carboxylic acid similar to as described in Example 2 with non-critical modifications to afford crude 10-bromo-3-(1-(cyclopropanecarbonyl)-3-hydroxyazetidin-3-yl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide which was then reacted with 2-Methyl-3-butyne-ol via General Procedure F to afford 7.9 mg (71.8%) 3-[1-(cyclopropanecarbonyl)-3-hydroxy-azetidin-3-yl]-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-9-fluoro-3-(3-hydroxyazetidin-3-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3(CNC3)O)C1)F | C17H16BrFN4O2
reactant | cyclopropane carboxylic acid | C1(CC1)C(=O)O | C4H6O2
product | 10-bromo-3-(1-(cyclopropanecarbonyl)-3-hydroxyazetidin-3-yl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3(CN(C3)C(=O)C3CC3)O)C1)F | C21H20BrFN4O3
